US09238640B2
Preparation of 2-(4-(4-(5-Chloro-1-methyl-1H-pyrazole-4-carbonyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a mixture of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.150 g, 0.41 mmol) and 5-chloro-1-methyl-1H-pyrazole-4-carbonyl chloride (0.073 g, 0.41 mmol) in CH2Cl2 (50 mL), was added Et3N (0.086 mL, 0.62 mmol) and the reaction stirred under nitrogen at room temperature for 1 hour. The residue was concentrated and purified by flash chromatography on silica gel, eluting with 70% CH2Cl2/(92:7:1 CHCl3/MeOH/concentrated NH4OH) to 100% (92:7:1 CHCl3/MeOH/concentrated NH4OH), to afford the title compound as a white solid (0.159 g, 76%). 1H NMR (500 MHz, DMSO-d6): δ 11.78 (s, 1H), 8.12 (d, J=9.0 Hz, 2H), 7.77 (s, 1H), 7.04 (d, J=9.1 Hz, 2H), 6.69 (d, J=2.3 Hz, 1H), 6.47 (d, J=2.3 Hz, 1H), 3.88 (s, 3H), 3.80-3.87 (m, 6H), 3.63-3.80 (m, 4H), 3.38-3.44 (m, 4H). APCI MS m/z 509 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.41 mmol, 0.150 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | 5-chloro-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.41 mmol, 0.073 g | ClC1=C(C=NN1C)C(=O)Cl | C5H4Cl2N2O
reactant | Et3N | 0.62 mmol, 0.086 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-(5-Chloro-1-methyl-1H-pyrazole-4-carbonyl)piperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.159 g, 76% | ClC1=C(C=NN1C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C25H25ClN6O4
